US08404856B2
Step 2: 3-chloro-5-{[4,5-dichloro-2-oxo-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1,2-dihydropyridin-3-yl]oxy}benzonitrile 23-2
To a solution of 3-chloro-5-[(4,5-dichloro-2-oxo-1,2-dihydropyridin-3-yl)oxy]benzonitrile (49 mg, 0.155 mmol) in DMF (1 mL) was added tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (48.5 mg, 0.155 mmol) and potassium carbonate (21.46 mg, 0.155 mmol) and the mixture heated at 55° C. for 30 minutes. After this time, the reaction mixture was allowed to cool to room temperature and the mixture was filtered through a Gelma Acrodisc. The filtrate was purified on Gilson LC using a Luna reverse phase column (10μ, C18, 250×21.2 mm) eluting with a gradient of 20-95% ACN/water (0.5% TFA). The desired fractions were combined and evaporated in vacuo. This residue was dissolved in TFA (3 mL) and allowed to stand at room temperature for 15 minutes and then the solvent was evaporated in vacuo to give a white solid. This solid was suspended in ACN (10 mL) and the solvent removed in vacuo to give the title compound. 1H NMR (DMSO-d6) δ=8.52 (d, 1H, J=3.8 Hz), 8.41 (s, 1H), 8.19 (d, 1H, J=7.9 Hz), 7.74 (s, 1H), 7.60 (s, 1H), 7.55 (s, 1H), 7.19 (dd, 1H, J=4 and 8.9 Hz) and 5.49 (s, 2H) ppm. HRMS (M+1): 445.9991.

reactant | 3-chloro-5-[(4,5-dichloro-2-oxo-1,2-dihydropyridin-3-yl)oxy]benzonitrile | 0.155 mmol, 49 mg | ClC=1C=C(C#N)C=C(C1)OC=1C(NC=C(C1Cl)Cl)=O | C12H5Cl3N2O2
reactant | tert-butyl 3-(bromomethyl)-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 0.155 mmol, 48.5 mg | BrCC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H14BrN3O2
reactant | potassium carbonate | 0.155 mmol, 21.46 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ACN | 10 mL | C(C)#N | C2H3N
product | 3-chloro-5-{[4,5-dichloro-2-oxo-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1,2-dihydropyridin-3-yl]oxy}benzonitrile | ClC=1C=C(C#N)C=C(C1)OC=1C(N(C=C(C1Cl)Cl)CC1=NNC2=NC=CC=C21)=O | C19H10Cl3N5O2
